US07101898B2
Potassium tert-butoxide (10.96 g, 98 mmol) in tetrahydrofuran (60 ml) was added portionwise to a solution of triethyl phosphonoacetate (21.91 g, 98 mmol) in tetrahydrofuran (150 ml). The reaction mixture was stirred for 40 min at room temp. A solution of 4-(methylsulfonyl)benzaldehyde (Acros no.: 42490-0025; 10.0 g, 54 mmol) in tetrahydrofuran (60 ml) was added dropwise. The reaction mixture was stirred for 1 h at room temp. It was diluted with ethyl acetate (500 ml) and washed with 1 N hydrochloric acid (300 ml): The aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic layers were dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by crystallization from ethyl acetate/heptane to give 4.3 g of (E)-3-(4-(methylsulfonyl)phenyl)acrylic acid ethyl ester.

reactant | Potassium tert-butoxide | 98 mmol, 10.96 g | CC(C)([O-])C.[K+]
reactant | 4-(methylsulfonyl)benzaldehyde | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | (E)-3-(4-(methylsulfonyl)phenyl)acrylic acid ethyl ester | 4.3 g | C(C)OC(\C=C\C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H14O4S
